US07750161B2
C1.3. 1,3-Bis-(2,6-dimethyl-pyridin-4-yl)-urea
2,6-Dimethyl-pyridin-4-ylamine (1.22 g, 10 mmol) is dissolved in dry dioxane (30 mL) and CDI (891 mg, 5.5 mmol) is added. The mixture is heated at 80° C. for 1 h. Further CDI (160 mg) is added and stirring is continued for 15 h. The mixture is evaporated and purified by FC (SiO2, EtOAc-MeOH) to provide the title compound.

reactant | 2,6-Dimethyl-pyridin-4-ylamine | 10 mmol, 1.22 g | CC1=NC(=CC(=C1)N)C | C7H10N2
reactant | CDI | 5.5 mmol, 891 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | CDI | 160 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 1,3-Bis-(2,6-dimethyl-pyridin-4-yl)-urea | CC1=NC(=CC(=C1)NC(=O)NC1=CC(=NC(=C1)C)C)C | C15H18N4O
